Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
presented as OSH ED transfer for new onset aphasia,
confusion after being found on floor in feces.
 
Major Surgical or Invasive Procedure:
TICI 3 mechanical thrombectomy left M2 occlusion

 
History of Present Illness:
This is an ___ year old man with hypothyroidism, hypertension,
anxiety who was transferred from ___ ED for expedited management
of left M1 hyperintensity and concern for evolving left MCA,
outside window for tPA. 

History obtained per chart review as patient was aphasic and no
next-of-kin on chart. Patient has son (estranged, ___ -
___, who did not answer phone on multiple attempts at
calls). Attempted to find ___ who found patient
without success and given urgency of time patient was taken for
thrombectomy prior to complete history. 

Per chart review, patient was found by ___ this morning (last
checked reportedly >24hrs ago) in feces, lying on floor, and 
with
aphasia. There was report of right side moving slightly less
spontaneously than left side. The patient was brought to ___
where vitals where notable for BP171/81, H98, SaO2 97. NCHCT
demonstrated hypodensity in territory of left MCA with
hyperintensity of left M1 branch raising suspicion for infarct.
He was transferred to ___ ED for further evaluation.

At ___ was 9 as documented below. NCHCT, CTA head and
neck, CTP were repeated with findings of left distal M1
non-occlusive thrombus. Comparisons were made to prior scan ___
years ago in ___ and non-occlusive thrombus was confirmed to be
new and not chronic. CT-P was with core volume 4 with mismatch
118 and mismatch ratio 30.5 with Tmax 122 suggesting potentially
newer infarct with salvageable penumbra. Given symptoms of
debilitating aphasia in an independent patient otherwise without
care providers, decision was made to pursue thrombectomy despite
uncertain LKW with assumption of within 24hrs and with NIHSS9
given known non-occlusive left M1 thrombus that was new as per
prior CTA at ___. 

ROS: 
===
Unable to attain given aphasia on exam and expedited pursuit of
thrombectomy 
 
Past Medical History:
Per chart review:
Hypothyroidism
Delusional Disorder
Cervicalgia
"long term use of aspirin"
Hypertension
Anxiety
Myalgias
Depression
Paranoid Schizophrenia
left frontal lobe infarct 
TIAs
s/p CEA ___ (unknown side)
 
Social History:
___
Family History:
Significant family history of stroke in mother, father, siblings
(per chart review, needs confirmation)
 
Physical Exam:
Physical Exam On Admission:
Physical Exam:
=============

Vitals: T:  BP:  HR:  RR:  SaO2:
SBP 160s/60, HR 70, RR20, SaO2 90, afebrile

General: Covered in feces, bruises along right deltoid and right
superior orbit, as well as right knee. Excoriations along right
knee and lateral side of right leg. Disheveled appearance.
No tongue lacerations

MS: Alert. Does not follow verbal commands. Mimics some motor
commands but not all motor commands. Spontaneous nonsensical
speech output. 
No evidence of neglect. 

CN: PERRL 3>2. EOMI without nystagmus. Does not blink to threat
on right suggesting right hemianopsia. Blinks to threat on left.
Slight right NLFF with delayed activation. Speech is slightly
dysarthric to lingual sounds. Tongue midline.

Motor: moves all extremities spontaneously, slightly moves right
upper and lower extremity less than left but both are 
spontaneous
and antigravity. No drift of right arm or leg. Confrontational
testing grossly full to push/pull mimic commands at
biceps/triceps. Unable to do confrontational testing in legs but
no clear difference in IP with drift testing with motor mimic.

Reflexes: Toes upgoing bilaterally. No clear asymmetry in
reflexes.

___: accurately reaches for foley bilaterally. 
================

Physical Exam at Discharge:
24 HR Data (last updated ___ @ ___)
    Temp: 97.5 (Tm 97.7), BP: 145/79 (130-145/75-79), HR: 72 
(72-79), RR: 18, O2 sat: 96% (96-97), O2 delivery: Ra, Wt: 149.9 
lb/67.99 kg  General: Awake, NAD.

- patients vitals as above at time of dc. 

HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.

Neurologic:
Patient agreed for a partial examtoday. Patient facial movements 
symmetric, though right side of lip appears lower than right.  
Following 2 step commands.   OMI all directions. No nystagmus. 
Pupils 3->2 equal and reactive.  Primary expressive aphasia at 
this point in time with a wornickies pattern. Patient also 
improving in his ability to say one word with improved 
approximation and improved approximation on low frequency 
objects.  

No pronator drift in upper extremities. No drift in lower 
extremities. Able to play alternative hand shaking without 
difficulty.  
Able to demonstrate how one would drive a car with his hands.  
Walking around floor without difficulty. 
Moving all extremities purposefully. 
Sensation reportedly symmetrical to light touch. 

 
Pertinent Results:
___ 08:00PM BLOOD WBC-10.1* RBC-4.53* Hgb-14.3 Hct-42.1 
MCV-93 MCH-31.6 MCHC-34.0 RDW-13.3 RDWSD-45.1 Plt ___
___ 09:45AM BLOOD WBC-5.6 RBC-4.40* Hgb-13.9 Hct-42.6 
MCV-97 MCH-31.6 MCHC-32.6 RDW-13.2 RDWSD-47.5* Plt ___
___ 08:00PM BLOOD ___ PTT-30.2 ___
___ 08:00PM BLOOD Glucose-108* UreaN-9 Creat-0.8 Na-143 
K-3.6 Cl-105 HCO3-24 AnGap-14
___ 09:45AM BLOOD Glucose-94 UreaN-20 Creat-1.1 Na-144 
K-4.2 Cl-109* HCO3-23 AnGap-12
___ 06:05PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD ALT-22 AST-28 CK(CPK)-188 AlkPhos-95 
TotBili-0.9
___ 09:45AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0
___ 08:00PM BLOOD %HbA1c-5.5 eAG-111
___ 08:00PM BLOOD Triglyc-63 HDL-63 CHOL/HD-2.2 LDLcalc-60
___ 08:00PM BLOOD TSH-3.1
___ 06:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:15PM BLOOD Glucose-100 Creat-0.7 Na-141 K-4.8 
Cl-109* calHCO3-22
___ 06:05PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG
___ 06:05PM URINE Color-Straw Appear-Clear Sp ___
___ 06:05PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-0
___ 06:05PM URINE Hours-RANDOM
___ 06:05PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
___ 6:05 pm URINE      STROKE. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

===============
Reports:
___ ECG - QT/QTc 356/381 ms

___ HEAD W/O CONTRAST  
COMPARISON:  CT head ___
 
FINDINGS: 
 
Motion artifact limits evaluation.  Within this limitation, 
there is no
evidence of hemorrhage.  The oval vein left middle cerebral 
artery subacute
infarction appears somewhat better defined than on ___.  
There is
prominence of the ventricles and sulci suggestive of 
involutional changes.
 
There is mild mucosal thickening of the bilateral anterior 
ethmoid air cells
and complete opacification of the right sphenoid sinus.  
Otherwise, the
visualized portion of the paranasal sinuses, mastoid air cells, 
and middle ear
cavities are clear.  Status post bilateral lens replacement; 
otherwise the
visualized portion of the orbits are normal.
 
IMPRESSION: 
 
Motion artifact limits evaluation.
Evolving left middle cerebral artery distribution subacute 
infarction.
No evidence of hemorrhage.

___ Echo Report 
The left atrial volume index is normal. The inferior vena cava 
diameter is normal. There is normal left ventricular wall 
thickness with a normal cavity size. There is suboptimal image 
quality to assess regional left ventricular function. Overall 
left ventricular systolic function is normal. Quantitative 
biplane left ventricular ejection fraction is 63 % (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. Tricuspid annular plane systolic excursion (TAPSE) 
is normal. The aortic sinus diameter is normal for gender with a 
normal ascending aorta diameter for gender. There is a normal 
descending aorta diameter. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is high normal. There is a 
trivial pericardial effusion.
IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes and global biventricular systolic function. No 
valvular pathology or pathologic flow identified. High normal 
estimated pulmonary artery systolic pressure. No definite 
structural cardiac source of embolism identified.

___ UNILAT  
 
FINDINGS: 
 
Right common femoral artery: Arteriotomy is above the 
bifurcation. There is
good distal runoff. There is no evidence of dissection. Vessel 
caliber
appropriate for closure device.
 
Left internal carotid artery: Vessel caliber smooth and regular. 
 There is
filling of the anterior cerebral artery and its distal territory 
with filling
across the anterior communicating artery into the contralateral 
A 2.  There is
filling into the left middle cerebral artery filling into the 
inferior
division of the middle cerebral artery and very slow filling 
into the low
superior division of the middle cerebral artery with evidence of 
near partial
occlusion of the division of the artery.
 
Left middle cerebral artery.  Vessel caliber smooth regular.  
There is filling
of the left middle cerebral artery and its distal territory.
 
Left internal carotid artery post thrombectomy: Vessel caliber 
smooth regular.
There is filling of the anterior and middle cerebral arteries 
and their distal
territory.  There is no evidence of spasm in the superior 
division of middle
cerebral artery fills without any filling deficits.
 
Left common carotid artery: Vessel caliber smooth and regular.  
There is
filling of the internal and external carotid arteries and their 
distal
branches.  There is no evidence of atherosclerosis or stenosis 
by NASCET
criteria.
IMPRESSION:
1. TICI 3 mechanical thrombectomy left M2 occlusion

___ HEAD AND NECK WITH  
Outside head CT dated ___ at 1424.
 
FINDINGS: 
 
CT HEAD WITHOUT CONTRAST:
There is no evidence of infarction,hemorrhage,edema,ormass.  The 
ventricles
and sulci are normal in size and configuration.
 
The visualized portion of the paranasal sinuses, mastoid air 
cells,and middle
ear cavities are clear. The visualized portion of the orbits are 
normal.
 
CTA HEAD:
The vessels of the circle of ___ and their principal 
intracranial branches
appear normal without stenosis, occlusion, or aneurysm.  The 
dural venous
sinuses are patent.
 
CTA NECK:
Bilateral carotid and vertebral artery origins are patent.
There is no evidence of internal carotid stenosis by NASCET 
criteria.
The carotidandvertebral arteries and their major branches appear 
normal with
no evidence of stenosis or occlusion.
 
 
 
OTHER:
The visualized portion of the lungs are clear.  The visualized 
portion of the
thyroid gland is within normal limits. There is no 
lymphadenopathy by CT size
criteria.
There is hypoattenuation and loss of right matter 
differentiation involving
the left insula, parietal cortex, and portions of the 
frontotemporal gyri in
combination with anterior hyperdense M2 branch vessel.  No 
hemorrhage is
demonstrated.  There is background global prominence of the 
ventricle and
sulci reflecting involutional changes, and patchy areas of 
hypoattenuation in
the white matter which likely reflect chronic small vessel 
disease in this age
group.  An area of loss of gray matter differentiation with 
volume loss in the
left temporal lobe may reflect a previous infarct.
 
 
There is opacification of the right lateral aspect of the 
sphenoid sinus. 
There is a small mucous retention cyst in the left maxillary 
sinus.  There is
mild scattered mucosal thickening in the ethmoid air cells.  The 
visualized
portion of the paranasal sinuses, mastoid air cells,and middle 
ear cavities
are otherwise clear.  The visualized portion of the orbits are 
normal.
 
CTA HEAD:
There is occlusion of the proximal M2 branches of the left 
middle cerebral
artery, more so involving the superior anterior branch, but with
reconstitution distal to the thrombus, corresponding to the area 
of
hyperdensity seen on the unenhanced head CT for shin of this 
exam.
The remaining vessels of the circle of ___ and their 
principal intracranial
branches appear normal without stenosis, additional occlusion, 
or aneurysm. 
Fetal origin of the right posterior cerebral artery.  Dominant 
left vertebral
artery.  The dural venous sinuses are patent.
 
CTA NECK:
The aortic arch appears normal with conventional 3 vessel 
configuration. 
There is minimal calcification of the aortic arch.
Bilateral carotid and vertebral artery origins are patent.  Mild 
calcification
is noted involving the proximal right subclavian artery.
There is evidence of a previous left carotid endarterectomy with 
multiple
surgical clips noted.  There is minimal atherosclerotic 
calcification noted
involving the low right carotid bifurcation.  There is no 
evidence of internal
carotid stenosis by NASCET criteria.  Dominant left vertebral 
artery.
The vertebral arteries are patent with no significant stenosis 
demonstrated.
 
CT PERFUSION: RAPID perfusion maps demonstrate perfusion defect 
in the left
middle cerebral artery territory corresponding to the region of 
occlusion on
the CT angiogram.  Quantitative data as follows:
 
CBF< 30%: 4 mL (much of this corresponding to the apparent area 
of
encephalomalacia)
T-max greater than 6 seconds volume: 122 mL
Mismatch volume: 118 mL
Mismatch ratio: 30.5
 
IMPRESSION:
 
 
1. Hypoattenuation in the left MCA territory with corresponding 
perfusion
deficit, M2 occlusion, and mismatch volume of 118 mL on 
perfusion analysis,
consistent with ischemia and penumbra.
2. Patent bilateral cervical carotid and vertebral arteries 
without evidence
of stenosis, occlusion, or dissection.

 
Brief Hospital Course:
Patient is an ___ M with PMH of hypertension, 
hypothyroid, prior left frontal infarct s/p CEA in ___ who 
presented as a outside hospital ED to ED transfer for new onset 
aphasia and confusion, after being found on the floor with fecal 
incontinence. Patient's initial imaging notable for left distal 
M1 thrombus with NIHSS 9. Patient was outside of the 24-hour 
last known well window, but based on perfusion studies, patient 
was taken for successful thrombectomy with TICI III (full) 
reperfusion.

Etiology stroke concerning for cardio-embolic source, however 
EKG shows NSR and TTE shows no evidence of thrombus. Telemetry 
while patient was in the hospital (for 23 days) did not show any 
atrial fibrillation. Also on the differential is 
artery-to-artery thrombus, but unlikely given absence of 
significant carotid disease on reperfusion. The presence of a 
retreat thrombus makes other etiologies like seizure with 
post-ictal confusion extremely unlikely. Given that patient was 
previously on full dose aspirin, this was considered a possible 
failure of aspirin therapy, and he has subsequently been 
transitioned to clopidogrel. Metabolic, infectious, cardiac 
etiology for work-up, and without any significant findings. 
Patient's baseline challenging social situation, was further 
complicated by his now significant aphasia, and he developed 
increasingly agitated state, for which psychiatry was able to 
assist in medication management, with treatment of his agitation 
with standing olanzapine, and by increased his Seroquel dose 
from 75 mg nightly 250 mg nightly. Patient had prolonged 
hospital stay due to need for guardianship, and ___ form. 
Patient at time of discharge was still not allowing full 
confrontational exam, but primarily demonstrated expressive 
aphasia, with improvements in his receptive aphasia. He 
demonstrated the ability to walk, and had no pronator drift in 
his upper extremities are drift in his lower extremities. He 
demonstrated gross sensation to be intact.

====================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) except when patient 
refused.
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 61 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg) (x) 
Yes - () No [if LDL >70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Aspirin 325 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. QUEtiapine Fumarate 75 mg PO QHS 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Naproxen 500 mg PO Q12H:PRN Pain - Severe 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Clopidogrel 75 mg PO DAILY  
3.  Heparin 5000 UNIT SC BID 
dvt prophylaxis  
4.  Lidocaine 5% Patch 1 PTCH TD QAM Back   
5.  Multivitamins 1 TAB PO DAILY  
6.  OLANZapine (Disintegrating Tablet) 2.5 mg PO TID:PRN 
insomnia, anxiety  
 2.5 mg PO TID:PRN insomnia, anxiety  
Do not exceed 30mg in 24 hours    
7.  OLANZapine (Disintegrating Tablet) 5 mg PO TID 
please schedule for 9am, 1pm, and 6pm
Do not exceed 30mg in 24 hours    
8.  OLANZapine 5 mg IM ONCE PRN severe agitation   
9.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
10.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
11.  Thiamine 100 mg PO DAILY  
12.  Vitamin D ___ UNIT PO DAILY  
13.  amLODIPine 10 mg PO DAILY  
14.  QUEtiapine Fumarate 150 mg PO QHS  
15.  Cyanocobalamin 1000 mcg PO DAILY  
16.  Levothyroxine Sodium 75 mcg PO DAILY  
17.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke.  Delirium.

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized because of inability to speak or following 
commands which was the result from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot.  The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:
Prior stroke
Hypertension
 
We are changing your medications as follows:
 - Seroquel increased to 150mg QHS
-  Olanzapine 5mg TID  
-  Offer Olanzapine 2.5-5mg TID PRN for agitation or insomnia 
-  Okay for IM 2.5-5mg olanzapine when agitated 
-  Continue clopidogrel 75mg
-  Increased your amlodipine from 5mg to 10mg daily.
-  Continue your new vitamin supplements.
-  Stop taking your gabapentin, clonazepam, and aspirin.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___